US08541588B2
2-[3-Nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenol
To a solution of 4-bromo-3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (Preparation 869, 18.95 g, 0.06864 mol) in 1,2-dimethoxyethane (175 mL) was added aqueous potassium carbonate (2M in water, 68.0 mL, 0.123 mol) and tetrakis(triphenylphosphine)palladium(0) (6.34 g, 0.00549 mol). The reaction was sparged 3 times with Argon and heated to 75° C. To this, [2-hydroxy-5-(trifluoromethyl)phenyl]boronic acid (Preparation 871, 21.22 g, 0.103 mol) was added in four portions over six hours. The reaction solution was heated for an additional 12 hours and then allowed to cool. The mixture was diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. Purification by automated flash column chromatography using a 0-50% ethyl acetate/hexanes gradient and a 80 g column gave the title compound (13.2 g, 54%) as a yellow oil.

reactant | 4-bromo-3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 0.06864 mol, 18.95 g | BrC=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-] | C8H10BrN3O3
reactant | potassium carbonate | 0.123 mol, 2M, 68.0 mL | C([O-])([O-])=O.[K+].[K+]
reactant | [2-hydroxy-5-(trifluoromethyl)phenyl]boronic acid | 0.103 mol, 21.22 g | OC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H6BF3O3
solvent | 1,2-dimethoxyethane | 175 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00549 mol, 6.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3-Nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenol | 13.2 g, 54% | [N+](=O)([O-])C1=NN(C=C1C1=C(C=CC(=C1)C(F)(F)F)O)C1OCCCC1 | C15H14F3N3O4
